* NGSPICE file created from ip_column_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__or2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__or2_1 A1 A2 Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__or3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__or3_1 A1 A2 A3 Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

.subckt ip_column_mux A[0] A[1] A[2] A[3] A[4] VDD VSS Y[0] Y[10] Y[11] Y[12] Y[13]
+ Y[14] Y[15] Y[16] Y[17] Y[18] Y[19] Y[1] Y[20] Y[2] Y[3] Y[4] Y[5] Y[6] Y[7] Y[8]
+ Y[9]
XFILLER_3_56 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput20 _25_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput7 _37_/ZN Y[10] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_2_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_3_24 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_48_ _48_/A1 _43_/Z _48_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
Xoutput8 _38_/ZN Y[11] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput10 _40_/ZN Y[13] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput21 _27_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_3_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_47_ _24_/Z _43_/Z _47_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
Xoutput22 _29_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput9 _39_/ZN Y[12] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput11 _41_/ZN Y[14] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_46_ _22_/Z _43_/Z _46_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_2_102 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_113 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput23 _31_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_29_ _18_/Z _40_/A1 _29_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
Xoutput12 _42_/ZN Y[15] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_45_ _20_/Z _43_/Z _45_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_28_ _28_/A1 _15_/I _32_/A3 _40_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
Xoutput13 _44_/ZN Y[16] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput24 _33_/ZN Y[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_44_ _17_/Z _43_/Z _44_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_2_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_27_ _18_/Z _48_/A1 _27_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput14 _45_/ZN Y[17] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput25 _35_/ZN Y[8] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_26_ _28_/A1 _30_/A2 _32_/A3 _48_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
X_43_ _43_/A1 _43_/A2 _43_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or2_1
Xoutput15 _46_/ZN Y[18] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput26 _36_/ZN Y[9] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_42_ _42_/A1 _42_/A2 _42_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_25_ _18_/Z _24_/Z _25_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_1_74 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput16 _47_/ZN Y[19] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_41_ _41_/A1 _42_/A2 _41_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_24_ _28_/A1 _30_/A2 _32_/A3 _24_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
Xoutput17 _21_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_40_ _40_/A1 _42_/A2 _40_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XTAP_TAPCELL_ROW_0_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_23_ _18_/Z _22_/Z _23_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
Xoutput18 _48_/ZN Y[20] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_22_ _28_/A1 _15_/I _32_/A3 _22_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
XFILLER_1_120 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput19 _23_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_21_ _18_/Z _20_/Z _21_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_1_89 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xinput1 A[0] _15_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_20_ _14_/I _30_/A2 _32_/A3 _20_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
Xinput2 A[1] _14_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput3 A[2] _32_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_3_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput4 A[3] _43_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_3_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xinput5 A[4] _16_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_2_94 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_73 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_39_ _48_/A1 _42_/A2 _39_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_38_ _24_/Z _42_/A2 _38_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_120 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_37_ _22_/Z _42_/A2 _37_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XTAP_TAPCELL_ROW_1_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_19_ _17_/Z _18_/Z _19_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_36_ _20_/Z _42_/A2 _36_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_35_ _17_/Z _42_/A2 _35_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_3_120 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_18_ _16_/I _43_/A2 _18_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or2_1
XFILLER_0_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_34_ _43_/A1 _43_/A2 _42_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_17_ _14_/I _15_/I _32_/A3 _17_/Z VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__or3_1
X_33_ _18_/Z _42_/A1 _33_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_16_ _16_/I _43_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_15_ _15_/I _30_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_2_8 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_32_ _14_/I _15_/I _32_/A3 _42_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
X_31_ _18_/Z _41_/A1 _31_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XFILLER_2_16 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_14_ _14_/I _28_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_0_116 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_2_39 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_93 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_30_ _14_/I _30_/A2 _32_/A3 _41_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
XFILLER_3_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_95 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_116 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_20 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_3_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_55 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput6 _19_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_2_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
.ends

